US04318913
1-Methyl-N5 -[3-[3-(bromomethyl)phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine, hydrobromide
A solution of 3-[3-[(1-methyl-3-amino-1H-1,2,4-triazol-5-yl)amino]propoxy]benzene methanol (1.9 g) in methylene chloride (25 ml) was treated with phosphorus tribromide (3.27 g) at room temperature for 76 hrs. The resulting oil was purified by column chromatography using ethyl acetate/methanol, 8:1 as eluant to yeild the title compound as a white solid) 1.7 g). TLC silica ethyl acetate, water, isopropanol 0.88 ammonia (25:8:15:2) Rf 0.72. m.p. 129°-130°.

reactant | 3-[3-[(1-methyl-3-amino-1H-1,2,4-triazol-5-yl)amino]propoxy]benzene methanol | 1.9 g | CN1N=C(N=C1NCCCOC=1C=C(C=CC1)CO)N | C13H19N5O2
reactant | phosphorus tribromide | 3.27 g | P(Br)(Br)Br | Br3P
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 1-Methyl-N5 -[3-[3-(bromomethyl)phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine, hydrobromide | Br.CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CBr)N | InChI=1S/C13H18BrN5O.BrH/c1-19-13(17-12(15)18-19)16-6-3-7-20-11-5-2-4-10(8-11)9-14;/h2,4-5,8H,3,6-7,9H2,1H3,(H3,15,16,17,18);1H
